US05068340
9.214 g of (4S)-2,2-dimethyl-1,3-dioxolane-4-methanol {[α]26 +11.1° (c=1.72, CH3OH), prepared from D-mannitol} was worked up in a similar manner to the procedure described in Preparation 7(a) to give 11.466 g of (4S)-2,2-dimethyl-4-(2-methoxyethoxy)-methyl-1,3-dioxolane boiling at a bath temperature of 80° C./4 mmHg (532 pa).

reactant | (4S)-2,2-dimethyl-1,3-dioxolane-4-methanol | 9.214 g | CC1(OC[C@@H](O1)CO)C | C6H12O3
reactant | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | CH3OH | CO | CH4O
product | (4S)-2,2-dimethyl-4-(2-methoxyethoxy)-methyl-1,3-dioxolane | 11.466 g | CC1(OC[C@](O1)(OCCOC)C)C | C9H18O4
